US06177419B1
6-(3,4-Dimethyl-2-hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 3,4-dimethyl-2-hydroxyphenylboronic acid in 54% yield using method F; δH [2H6]-DMSO 13.40,(1H, b), 8.32,(2H, d), 8.24,(2H, m), 8.14-8.00,(3H, m), 7.86,(1H, d), 6.81,(3H, m), 2.33,(3H, s), 2.30,(3H, s), 2.19,(3H, s).

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 3,4-dimethyl-2-hydroxyphenylboronic acid | CC=1C(=C(C=CC1C)B(O)O)O | C8H11BO3
product | 6-(3,4-Dimethyl-2-hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 54% yield | CC=1C(=C(C=CC1C)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O)O | C25H22N2O2
